US06855722B2
d) 7-(2-{1-[2-Ethoxycarbonyl-1-(4-methoxy-phenyl)-vinyl]-1H-indol-5-yloxy}-ethyl)-3,4-dihydro-2H-[1,8]naphthyridine-1-carboxylic acid tert-butyl ester
The title compound was synthesized from (4-methoxy-phenyl)-propynoic acid ethyl ester and 7-[2-(1H-Indol-5-yloxy)-ethyl]-3,4-dihydro-2H-[1,8]naphthyridine-1-carboxylic acid tert-butyl ester using the procedure described in Example 16, step (d1), in a 88% yield as an E/Z isomeric mixture. 1H NMR (CDCl3) [E/Z mixture] δ 7.32 (m, 2H), 7.21 (m, 1H), 7.11-6.85 (m, 6H), 6.70 (m, 1H), 6.50 (m, 1H), 6.13 (s, 0.5H), 6.03 (s, 0.5H), 4.40 (m, 2H) 4.10 (q, 2H, J=7.2 Hz), 3.86 (s, 1.5H), 3.83 (s, 1H), 3.76 (t, 2H, J=5.2 Hz), 3.70 (t, 2H, J=6.0 Hz), 3.20 (t, 2H, J=6.8 Hz), 2.70 (t, 2H, J=6.8 Hz, J=6.8 Hz), 1.90 (m, 2H), 1.49 (s, 9H), 1.23 (t, 1.5H, J=7.2 Hz), 1.18 (t, 1.5H, J=7.2 Hz). Mass Spectrum (LCMS, ESI) calculated for C30H32N3O4 498.2 (M-Boc+H); found 498.4.

reactant | (4-methoxy-phenyl)-propynoic acid ethyl ester | C(C)OC(C#CC1=CC=C(C=C1)OC)=O | C12H12O3
reactant | 7-[2-(1H-Indol-5-yloxy)-ethyl]-3,4-dihydro-2H-[1,8]naphthyridine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCCC2=CC=C(N=C12)CCOC=1C=C2C=CNC2=CC1 | C23H27N3O3
product | 7-(2-{1-[2-Ethoxycarbonyl-1-(4-methoxy-phenyl)-vinyl]-1H-indol-5-yloxy}-ethyl)-3,4-dihydro-2H-[1,8]naphthyridine-1-carboxylic acid tert-butyl ester | 88% yield | C(C)(C)(C)OC(=O)N1CCCC2=CC=C(N=C12)CCOC=1C=C2C=CN(C2=CC1)C(=CC(=O)OCC)C1=CC=C(C=C1)OC | C35H39N3O6
